US08058299B2
A mixture of aqueous lithium hydroxide (215 mg, 5.13 mmol, 10 mL H2O), 4-(5-oxo-4,5-dihydro-[1,2,4]oxadiazol-3-yl)-cyclohexanecarboxylic acid methyl ester (580 mg, 2.56 mmol) and THF (40 mL) were stirred at room temperature for 5 hr. The reaction was then concentrated, diluted with aqueous sodium hydroxide (0.1 M, 100 mL) washed with ethyl acetate (100 mL). The basic solution was acidified with concentrated HCl and extracted with ethyl acetate (125 mL). The organic layer was washed with brine (100 mL), dried over sodium sulfate, concentrated, and dried from dichloromethane to give 4-(5-oxo-4,5-dihydro-[1,2,4]oxadiazol-3-yl)-cyclohexanecarboxylic acid (104 mg, 20%) as a white solid. LCMS calcd for C9H12N2O4 (m/e) 212, obsd 213 (M+H) and 211 (M−H).

reactant | lithium hydroxide | 5.13 mmol, 10 mL, 215 mg | [OH-].[Li+]
reactant | 4-(5-oxo-4,5-dihydro-[1,2,4]oxadiazol-3-yl)-cyclohexanecarboxylic acid methyl ester | 2.56 mmol, 580 mg | COC(=O)C1CCC(CC1)C1=NOC(N1)=O | C10H14N2O4
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 4-(5-oxo-4,5-dihydro-[1,2,4]oxadiazol-3-yl)-cyclohexanecarboxylic acid | 104 mg, 20% | O=C1NC(=NO1)C1CCC(CC1)C(=O)O | C9H12N2O4
